US06897231B2
SYNTHESIS OF 3-[3-(2-(2-PYRIDYL)ACETYLAMINO)PHENYL]-1H-INDAZOLE5-CARBOXAMIDE
Following Example 290, the reaction of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide (200 mg, 0.56 mmol) with 2-pyridylacetic acid hydrochloride (0.12 g, 0.71 mmol) and EDCI (0.17 g, 0.89 mmol) furnished 22 mg (10% yield) of the title compound. 1H NMR (DMSOd6) δ 13.4 (br s, 1H), 10.4 (s, 1H), 8.6 (s, 1H), 8.5 (dd, 1H), 8.2 (br s, 1H), 8.1 (s, 1H), 7.9 (d, 1H), 7.75 (m, 2H), 7.6 (d, 1H), 7.45 (m, 2H), 7.35-7.2 (m, 2H), 3.8 (s, 2H); ES-MS (m/z) 372 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carboxamide | 0.56 mmol, 200 mg | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C(=O)N)C1OCCCC1 | C19H20N4O2
reactant | 2-pyridylacetic acid hydrochloride | 0.71 mmol, 0.12 g | Cl.N1=C(C=CC=C1)CC(=O)O
reactant | EDCI | 0.89 mmol, 0.17 g | CCN=C=NCCCN(C)C | C8H17N3
product | 3-[3-(2-(2-PYRIDYL)ACETYLAMINO)PHENYL]-1H-INDAZOLE5-CARBOXAMIDE | 22 mg, 10% yield | N1=C(C=CC=C1)CC(=O)NC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)C(=O)N | C21H17N5O2
